US07728014B2
(E)-3-(4-ethylphenyl)prop-2-en-1-ol (Compound 40).
General Procedure G. A solution of ethyl chloroformate (1.1 ml, 11.4 mmol) in THF (5 ml) was added to a solution of 4-ethylcinnamic acid (2 g, 11.4 mmol) and triethylamine (1.6 ml, 11.4 mmol) in THF (50 ml) at −5° C. to −10° C., and the solution was stirred for 30 min. The resulting white precipitate was filtered off, rinsed with THF (10 ml), and the combined filtrates were added to a solution of NaBH4 (945 mg, 24.9 mmol) in H2O (20 ml) slowly in order to maintain an internal temperature of 10° C. to 15° C. After the addition was completed, the reaction was stirred at room temperature for 4 hours, and then it was made acidic with HCl (20%). The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with NaHCO3 (aq), and water, and brine, and dried over Na2SO4. The filtered solution was concentrated in vacuo, and the residue was purified by column chromatography (20% ethyl acetate in hexane) to yield a white solid.

reactant | ethyl chloroformate | 11.4 mmol, 1.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-ethylcinnamic acid | 11.4 mmol, 2 g | C(C)C1=CC=C(C=CC(=O)O)C=C1 | C11H12O2
reactant | triethylamine | 11.4 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 24.9 mmol, 945 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | H2O | 20 ml | O | H2O
product | (E)-3-(4-ethylphenyl)prop-2-en-1-ol | C(C)C1=CC=C(C=C1)/C=C/CO | C11H14O
